US07504511B2
A) 4-Butylphenyl acetate
A solution of 10 g of 4-n-butylphenol, 10 ml of Ac2O and 8 ml of pyridine is stirred at reflux in 10 ml of dichloromethane. After 2 hours, the medium is cooled to room temperature, diluted with dichloromethane, washed with water, washed with 1M HCl solution, washed with saturated CuSO4 solution, washed with water and dried over MgSO4. After evaporation, 10.8 g of the expected compound are recovered in the form of an oil.

reactant | 4-n-butylphenol | 10 g | CCCCC=1C=CC(=CC1)O | C10H14O
reactant | Ac2O | 10 ml | CC(=O)OC(=O)C | C4H6O3
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-Butylphenyl acetate | C(C)(=O)OC1=CC=C(C=C1)CCCC | C12H16O2
